US07402585B2
A solution of 7-methoxy-5-((1-methylpiperidin-4-yl)oxy)quinazolin-4(3H)-one (3.00 g, 10.4 mmol) and diisopropyl ethylamine (5 ml) in dichloromethane (300 ml) was stirred at ambient temperature under an atmosphere of nitrogen. Phosphoryl chloride (10 ml) was added, and the resultant orange solution was heated at reflux for 20 hours. The reaction mixture was then cooled to ambient temperature and concentrated in vacuo. Residual phosphoryl chloride was then removed by azeotrope with toluene to give the crude product as an orange oil. Purification by chromatography on silica gel, eluting with 5% triethylamine in dichloromethane, gave an orange solid, which was further purified by trituration under acetonitrile, and then dried in vacuo to yield 4-chloro-5-(N-methylpiperidin-4-yloxy)-7-methoxyquinazoline (2.4 g, 75% yield) as a pale yellow amorphous solid:

reactant | 7-methoxy-5-((1-methylpiperidin-4-yl)oxy)quinazolin-4(3H)-one | 10.4 mmol, 3.00 g | COC1=CC(=C2C(NC=NC2=C1)=O)OC1CCN(CC1)C | C15H19N3O3
reactant | diisopropyl ethylamine | 5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Phosphoryl chloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-chloro-5-(N-methylpiperidin-4-yloxy)-7-methoxyquinazoline | 2.4 g, 75% yield | ClC1=NC=NC2=CC(=CC(=C12)OC1CCN(CC1)C)OC | C15H18ClN3O2
